*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 4.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_0 1 2 3 4 REF
C_C1 1 REF 0.9956060775687pf
C_C2 1 2 13.359690666151pf
C_C3 1 3 0.016863497484pf
C_C4 1 4 0.1909283227431pf
C_C5 2 REF 1.1666722894015pf
C_C6 2 3 0.1004864040802pf
C_C7 3 REF 0.3507156414918pf
C_C8 3 4 6.8153004283497pf
C_C9 4 REF 0.3526213402654pf
L_L1 3 5 1.3160162016077nh
R_RL1 5 4 -1.089713453e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_1 1 2 3 4 REF
C_C1 1 REF 0.8004918907944pf
C_C2 1 2 13.64855322479pf
C_C3 1 3 0.016689144305pf
C_C4 1 4 0.1918624849805pf
C_C5 2 REF 0.972902964239pf
C_C6 2 3 0.0999657646895pf
C_C7 3 REF 0.3514399945454pf
C_C8 3 4 5.053105569405pf
C_C9 4 REF 0.3513673914563pf
R_R1 1 2 767.53257833225
L_L1 3 5 1.3174757283203nh
R_RL1 5 4 3.718222456e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_2 1 2 3 4 REF
C_C1 1 REF 0.6595922028507pf
C_C2 1 2 13.947824395253pf
C_C3 1 3 0.0164210888674pf
C_C4 1 4 0.1935958630781pf
C_C5 2 REF 0.8344787612298pf
C_C6 2 3 0.0998311035278pf
C_C7 3 REF 0.3518697848517pf
C_C8 3 4 3.8226173020851pf
C_C9 4 REF 0.3502896883235pf
R_R1 1 2 769.20349659534
L_L1 3 5 1.3186910000163nh
R_RL1 5 4 2.3262525701e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_3 1 2 3 4 REF
C_C1 1 REF 0.5351755873998pf
C_C2 1 2 14.349032688809pf
C_C3 1 3 0.0159324544076pf
C_C4 1 4 0.1967500979571pf
C_C5 2 REF 0.7145029642367pf
C_C6 2 3 0.1000810856048pf
C_C7 3 REF 0.3521406850479pf
C_C8 3 4 2.7638664846135pf
C_C9 4 REF 0.3491699535488pf
R_R1 1 2 800.2639039196
L_L1 3 5 1.3199204771409nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_4 1 2 3 4 REF
C_C1 1 REF 0.4335270429852pf
C_C2 1 2 14.8697123282pf
C_C3 1 3 0.0151256889202pf
C_C4 1 4 0.2016308225736pf
C_C5 2 REF 0.6195985331215pf
C_C6 2 3 0.1008082982555pf
C_C7 3 REF 0.3522577543583pf
C_C8 3 4 1.9154605351568pf
C_C9 4 REF 0.3481231258469pf
R_R1 1 2 875.51696510881
L_L1 3 5 1.3211484268797nh
R_RL1 5 4 -1.009377388e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_5 1 2 3 4 REF
C_C1 1 REF 0.3653226908946pf
C_C2 1 2 15.444255364112pf
C_C3 1 3 0.0140509840973pf
C_C4 1 4 0.2075976577751pf
C_C5 2 REF 0.5594782943198pf
C_C6 2 3 0.1019092119354pf
C_C7 3 REF 0.3522691797206pf
C_C8 3 4 1.3541711569122pf
C_C9 4 REF 0.347361847713pf
L_L1 3 5 1.3221391872629nh
R_RL1 5 4 -2.559270911e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_6 1 2 3 4 REF
C_C1 1 REF 0.3182044328332pf
C_C2 1 2 16.077211070957pf
C_C3 1 3 0.012696083041pf
C_C4 1 4 0.214531395096pf
C_C5 2 REF 0.5216076253722pf
C_C6 2 3 0.1033169014925pf
C_C7 3 REF 0.3522547826524pf
C_C8 3 4 0.9697858565495pf
C_C9 4 REF 0.3468464661244pf
L_L1 3 5 1.3229519830845nh
R_RL1 5 4 -3.895385908e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_7 1 2 3 4 REF
C_C1 1 REF 0.2803856826452pf
C_C2 1 2 16.900196571849pf
C_C3 1 3 0.0107315863463pf
C_C4 1 4 0.2238218810218pf
C_C5 2 REF 0.4960403659354pf
C_C6 2 3 0.1053242148995pf
C_C7 3 REF 0.3522581577195pf
C_C8 3 4 0.6631386278384pf
C_C9 4 REF 0.3465069883851pf
L_L1 3 5 1.3237172019623nh
R_RL1 5 4 -5.163186688e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_8 1 2 3 4 REF
C_C1 1 REF 0.2511099184811pf
C_C2 1 2 17.946159671683pf
C_C3 1 4 0.2358048640824pf
C_C4 2 REF 0.4824755319447pf
C_C5 2 3 0.1080488885214pf
C_C6 3 REF 0.3523086717811pf
C_C7 3 4 0.427054812853pf
C_C8 4 REF 0.3463761884378pf
L_L1 3 5 1.324437656466nh
R_RL1 5 4 -6.291252816e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_9 1 2 3 4 REF
C_C1 1 REF 0.2292456715451pf
C_C2 1 2 19.288450810701pf
C_C3 1 4 0.2512506979886pf
C_C4 2 REF 0.4808378421385pf
C_C5 2 3 0.1117570733567pf
C_C6 3 REF 0.3524143822913pf
C_C7 3 4 0.2530674420429pf
C_C8 4 REF 0.3464627248535pf
L_L1 3 5 1.3250751597701nh
R_RL1 5 4 -7.11315937e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_10 1 2 3 4 REF
C_C1 1 REF 0.2126408387852pf
C_C2 1 2 20.995734555675pf
C_C3 1 4 0.2708255744097pf
C_C4 2 REF 0.48988813168pf
C_C5 2 3 0.1167322088031pf
C_C6 3 REF 0.3525458323244pf
C_C7 3 4 0.1270899058101pf
C_C8 4 REF 0.3467184287445pf
L_L1 1 5 84.815843507391nh
R_RL1 5 2 13.830187130217
L_L2 3 6 1.3256387686366nh
R_RL2 6 4 -7.540741944e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_11 1 2 3 4 REF
C_C1 1 REF 0.1989779545261pf
C_C2 1 2 23.217430046179pf
C_C3 1 4 0.2960549989193pf
C_C4 2 REF 0.5092643754966pf
C_C5 2 3 0.1235564475789pf
C_C6 3 REF 0.3526489781634pf
C_C7 3 4 0.0385173745223pf
C_C8 4 REF 0.3470820011125pf
L_L1 1 5 53.33519419999nh
R_RL1 5 2 7.8029697971081
L_L2 3 6 1.3260758334024nh
R_RL2 6 4 -7.438219382e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_12 1 2 3 4 REF
C_C1 1 REF 0.1853585012328pf
C_C2 1 2 26.136786041632pf
C_C3 1 4 0.3287797258709pf
C_C4 2 REF 0.5382884338831pf
C_C5 2 3 0.1329455334989pf
C_C6 3 REF 0.35266209819pf
C_C7 4 REF 0.3474819296108pf
L_L1 1 5 33.369238843311nh
R_RL1 5 2 4.0529717545185
L_L2 3 6 1.3262242364682nh
R_RL2 6 4 -6.753130765e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_13 1 2 3 4 REF
C_C1 1 REF 0.1679388444585pf
C_C2 1 2 30.147209277779pf
C_C3 1 4 0.3730766511409pf
C_C4 2 REF 0.5780449034467pf
C_C5 2 3 0.1463508879418pf
C_C6 3 REF 0.352527799474pf
C_C7 4 REF 0.3478763806074pf
L_L1 1 5 20.580681223124nh
R_RL1 5 2 1.919657659769
L_L2 3 6 1.3259740647491nh
R_RL2 6 4 -5.467105052e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_14 1 2 3 4 REF
C_C1 1 REF 0.1413522028226pf
C_C2 1 2 35.860415140918pf
C_C3 1 4 0.4353439245157pf
C_C4 2 REF 0.6309094472431pf
C_C5 2 3 0.1659707802509pf
C_C6 3 REF 0.3522123909746pf
C_C7 4 REF 0.3482663742256pf
R_R1 1 2 -855.9285562875
L_L1 1 5 12.292746565536nh
R_RL1 5 2 0.78913760354
L_L2 3 6 1.3255614495208nh
R_RL2 6 4 -3.642914135e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_15 1 2 3 4 REF
C_C1 1 REF 0.0952987911893pf
C_C2 1 2 44.672590311163pf
C_C3 1 4 0.5303699078368pf
C_C4 2 REF 0.704788180679pf
C_C5 2 3 0.1967439637174pf
C_C6 3 REF 0.3516801344307pf
C_C7 4 REF 0.3487280487216pf
R_R1 1 2 -690.7362030211
L_L1 1 5 6.7300282176215nh
R_RL1 5 2 0.1981651378783
L_L2 3 6 1.3248576055603nh
R_RL2 6 4 -1.4943515e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_16 1 2 3 4 REF
C_C1 1 2 60.789581346038pf
C_C2 1 4 0.7030033724971pf
C_C3 2 REF 0.8271615474434pf
C_C4 2 3 0.2534583416678pf
C_C5 3 REF 0.3508222342702pf
C_C6 4 REF 0.3495375699667pf
R_R1 1 2 -518.6088799917
L_L1 1 5 4.0620584057883nh
R_RL1 5 2 0.5935679613522
L_L2 3 6 1.3235667923981nh
R_RL2 6 4 1.3868188034e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_17 1 2 3 4 REF
C_C1 1 2 96.447005923216pf
C_C2 1 4 1.0838059981617pf
C_C3 2 REF 1.0778545934528pf
C_C4 2 3 0.3791019626747pf
C_C5 3 REF 0.3493707349381pf
C_C6 4 REF 0.3515563813066pf
R_R1 1 2 -346.130952919
L_L1 1 5 1.6294532242948nh
R_RL1 5 2 0.0564418882566
L_L2 1 6 71.041325543571nh
R_RL2 6 3 0.013430182952
L_L3 1 7 70.281784980459nh
R_RL3 7 4 0.0137762657954
L_L4 2 8 71.120318758952nh
R_RL4 8 3 0.0066162933475
L_L5 2 9 70.36356589136nh
R_RL5 9 4 0.0064115196182
L_L6 3 10 1.3207640658465nh
R_RL6 10 4 3.6229097173e-5
Kn_K1 L_L1 L_L2 0.0720533365215
Kn_K2 L_L1 L_L3 0.072311384599
Kn_K3 L_L1 L_L4 -0.07935121414
Kn_K4 L_L1 L_L5 -0.079906952885
Kn_K5 L_L2 L_L3 0.9906686031862
Kn_K6 L_L2 L_L4 0.9885381775285
Kn_K7 L_L2 L_L5 0.9791279171252
Kn_K8 L_L2 L_L6 -0.107381332635
Kn_K9 L_L3 L_L4 0.979172905013
Kn_K10 L_L3 L_L5 0.9884146207954
Kn_K11 L_L3 L_L6 0.0291253961121
Kn_K12 L_L4 L_L5 0.9906790861598
Kn_K13 L_L4 L_L6 -0.107177866378
Kn_K14 L_L5 L_L6 0.029253052369
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_18 1 2 3 4 REF
C_C1 1 2 211.89918464885pf
C_C2 1 4 2.3163816089243pf
C_C3 2 REF 1.8568514228599pf
C_C4 2 3 0.7852194449608pf
C_C5 3 REF 0.3459490355715pf
C_C6 4 REF 0.3590807475304pf
R_R1 1 2 -213.7507836414
L_L1 1 5 68.800531914089nh
R_RL1 5 REF 1.0163876775472
L_L2 1 6 0.5058803629623nh
R_RL2 6 2 0.0107137867152
L_L3 1 7 25.452488178766nh
R_RL3 7 3 0.0076278074757
L_L4 1 8 24.747110893543nh
R_RL4 8 4 0.0077148130278
L_L5 2 9 68.374077765988nh
R_RL5 9 REF 1.0197236355384
L_L6 2 10 25.531523394325nh
R_RL6 10 3 0.0012562827427
L_L7 2 11 24.829975751586nh
R_RL7 11 4 0.0011719981006
L_L8 3 12 93.682681599436nh
R_RL8 12 REF 0.8031765728569
L_L9 3 13 1.3118185312368nh
R_RL9 13 4 5.3165485682e-5
L_L10 4 14 92.966679844512nh
R_RL10 14 REF 0.8049637683616
Kn_K1 L_L1 L_L2 0.0790172581586
Kn_K2 L_L1 L_L5 0.9963169575275
Kn_K3 L_L1 L_L8 0.8534191938372
Kn_K4 L_L1 L_L10 0.8566328580785
Kn_K5 L_L2 L_L3 0.0594773102155
Kn_K6 L_L2 L_L4 0.0597778274875
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081376858027
Kn_K9 L_L2 L_L7 -0.083058740414
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9739641041412
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9900788561934
Kn_K15 L_L3 L_L7 0.9638479478868
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.174548475522
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9640409884198
Kn_K21 L_L4 L_L7 0.9897974679012
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0532181290971
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8529185159513
Kn_K26 L_L5 L_L10 0.85610603203
Kn_K27 L_L6 L_L7 0.9740464684686
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.173947233914
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0534647609416
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0914603649753
Kn_K35 L_L8 L_L10 0.9929790552814
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_19 1 2 3 4 REF
C_C1 1 2 1802.286841774pf
C_C2 1 4 19.306667649495pf
C_C3 2 REF 12.463043879048pf
C_C4 2 3 6.3694760700548pf
C_C5 3 REF 0.307940205569pf
C_C6 4 REF 0.4715006140151pf
R_R1 1 2 9.8487653120974
R_R2 1 4 978.84320108842
R_R3 2 4 -974.8246605622
L_L1 1 5 5.0028672776208nh
R_RL1 5 REF -7.213833642e-4
L_L2 1 6 0.0404855097524nh
R_RL2 6 2 -2.392284892e-3
L_L3 1 7 2.9710853435031nh
R_RL3 7 3 -6.741203755e-4
L_L4 1 8 2.3566743616289nh
R_RL4 8 4 -1.070759262e-3
L_L5 2 9 4.9770543960612nh
R_RL5 9 REF -2.268072644e-3
L_L6 2 10 2.9795231675233nh
R_RL6 10 3 -3.64790154e-4
L_L7 2 11 2.3697728410648nh
R_RL7 11 4 -1.92682285e-4
L_L8 3 12 7.9303346587244nh
R_RL8 12 REF -3.542486206e-3
L_L9 3 13 1.1961348165514nh
R_RL9 13 4 1.5283558272e-5
L_L10 4 14 7.3092924165476nh
R_RL10 14 REF -3.666524456e-3
Kn_K1 L_L1 L_L2 0.0736569443625
Kn_K2 L_L1 L_L5 0.9959466352481
Kn_K3 L_L1 L_L8 0.7907994824126
Kn_K4 L_L1 L_L10 0.8231619401092
Kn_K5 L_L2 L_L3 0.0462018438636
Kn_K6 L_L2 L_L4 0.0443317986855
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.070430838446
Kn_K9 L_L2 L_L7 -0.086497166715
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010589540781
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7806988456437
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9931974069457
Kn_K16 L_L3 L_L7 0.7724994009611
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.480210763196
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7744249823111
Kn_K22 L_L4 L_L7 0.991438068941
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1732395345239
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7901216372927
Kn_K27 L_L5 L_L10 0.8220681041804
Kn_K28 L_L6 L_L7 0.781487524229
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.478295924342
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1741442158803
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2950063921842
Kn_K36 L_L8 L_L10 0.9222776786057
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_20 1 2 3 4 REF
C_C1 1 REF 16.0400311396pf
C_C2 1 3 8.286866093101pf
C_C3 2 4 25.050749471293pf
C_C4 3 REF 0.4042716590012pf
C_C5 4 REF 0.1757005906108pf
R_R1 1 2 -17.24325894628
L_L1 1 5 3.1961635451959nh
R_RL1 5 REF -5.803648026e-3
L_L2 1 6 0.4896238516141nh
R_RL2 6 2 0.3140129493501
L_L3 1 7 2.2959057000346nh
R_RL3 7 3 0.1256383629992
L_L4 1 8 1.821556049352nh
R_RL4 8 4 0.1926627476095
L_L5 2 9 3.6798519356828nh
R_RL5 9 REF 0.3178478520517
L_L6 2 10 2.1642316716645nh
R_RL6 10 3 0.0423594269444
L_L7 2 11 1.5574773156559nh
R_RL7 11 4 0.0147145830509
L_L8 3 12 5.5011075780438nh
R_RL8 12 REF 0.1245607951107
L_L9 3 13 1.1399938230268nh
R_RL9 13 4 0.0071653827507
L_L10 4 14 5.0377178979888nh
R_RL10 14 REF 0.1931753868727
Kn_K1 L_L1 L_L5 0.9310990472018
Kn_K2 L_L1 L_L8 0.7633137017334
Kn_K3 L_L1 L_L10 0.7990135381892
Kn_K4 L_L2 L_L3 0.2929959180639
Kn_K5 L_L2 L_L4 0.3990409418072
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.173863732788
Kn_K8 L_L2 L_L7 -0.129140150236
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0886116638625
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7279789198432
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.8906104492179
Kn_K15 L_L3 L_L7 0.6230010043435
Kn_K16 L_L3 L_L8 0.9006178118334
Kn_K17 L_L3 L_L9 -0.49892776688
Kn_K18 L_L3 L_L10 0.942739299393
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.5599971514029
Kn_K21 L_L4 L_L7 0.8577228267591
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.2309615151264
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0607668502603
Kn_K26 L_L5 L_L7 0.0416897418802
Kn_K27 L_L5 L_L8 0.7797661798194
Kn_K28 L_L5 L_L9 -0.03499820256
Kn_K29 L_L5 L_L10 0.8314890684885
Kn_K30 L_L6 L_L7 0.7030975602068
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.556028663616
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2000922076753
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3201334811435
Kn_K38 L_L8 L_L10 0.8926924959047
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_21 1 2 3 4 REF
C_C1 1 2 240.252111689pf
C_C2 1 4 2.6087971786886pf
C_C3 2 REF 2.0321394391542pf
C_C4 2 3 0.8891276285599pf
C_C5 3 REF 0.3435284955708pf
C_C6 4 REF 0.358709674037pf
R_R1 1 2 -73.25788837679
L_L1 1 5 34.122592649665nh
R_RL1 5 REF -0.849950304424
L_L2 1 6 0.1459117564471nh
R_RL2 6 2 0.0073433424217
L_L3 1 7 13.065738155837nh
R_RL3 7 3 0.008796862743
L_L4 1 8 12.373337321246nh
R_RL4 8 4 0.0088930229807
L_L5 2 9 33.81619103415nh
R_RL5 9 REF -0.824316183025
L_L6 2 10 13.158343598435nh
R_RL6 10 3 2.1389004318e-5
L_L7 2 11 12.473804224966nh
R_RL7 11 4 4.5040347359e-5
L_L8 3 12 46.940092341413nh
R_RL8 12 REF -0.867340020563
L_L9 3 13 1.2967463021639nh
R_RL9 13 4 1.1647923681e-5
L_L10 4 14 46.236977177969nh
R_RL10 14 REF -0.866297011829
Kn_K1 L_L1 L_L2 0.1013545565884
Kn_K2 L_L1 L_L5 0.9978624536457
Kn_K3 L_L1 L_L8 0.849505972175
Kn_K4 L_L1 L_L10 0.8558058520751
Kn_K5 L_L2 L_L3 0.0193035212643
Kn_K6 L_L2 L_L4 0.0169108771879
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.086068443873
Kn_K9 L_L2 L_L7 -0.091312133259
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9493771393063
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944421636319
Kn_K15 L_L3 L_L7 0.9434583903843
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.24162531264
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9442497083778
Kn_K21 L_L4 L_L7 0.9941357506827
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0754369877132
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8483384479188
Kn_K26 L_L5 L_L10 0.8545294677052
Kn_K27 L_L6 L_L7 0.9497481306871
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.239821979595
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0761099214794
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1281652938776
Kn_K35 L_L8 L_L10 0.986111065097
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_22 1 2 3 4 REF
C_C1 1 REF 0.0612881740845pf
C_C2 1 2 57.085708190259pf
C_C3 1 4 0.6502633843227pf
C_C4 2 REF 0.805546540992pf
C_C5 2 3 0.2456205144225pf
C_C6 3 REF 0.3474898576692pf
C_C7 4 REF 0.3451773678017pf
R_R1 1 2 -476.9164549629
L_L1 1 5 0.6559949375984nh
R_RL1 5 2 -3.047522116e-3
L_L2 1 6 52.150105485153nh
R_RL2 6 3 0.10226705779
L_L3 1 7 51.328499565487nh
R_RL3 7 4 0.0986779474231
L_L4 2 8 52.899853521934nh
R_RL4 8 3 0.3274440602094
L_L5 2 9 52.082823897427nh
R_RL5 9 4 0.323012021192
L_L6 3 10 1.3151653168375nh
R_RL6 10 4 -1.650407091e-5
Kn_K1 L_L1 L_L4 -0.119315934575
Kn_K2 L_L1 L_L5 -0.120639613883
Kn_K3 L_L2 L_L3 0.9873215830484
Kn_K4 L_L2 L_L4 0.9937807110957
Kn_K5 L_L2 L_L5 0.9810451912077
Kn_K6 L_L2 L_L6 -0.12900610529
Kn_K7 L_L3 L_L4 0.9812434861619
Kn_K8 L_L3 L_L5 0.9936828861259
Kn_K9 L_L3 L_L6 0.0300358530752
Kn_K10 L_L4 L_L5 0.9875024550659
Kn_K11 L_L4 L_L6 -0.127814317287
Kn_K12 L_L5 L_L6 0.0300940217047
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_23 1 2 3 4 REF
C_C1 1 REF 0.2914368633606pf
C_C2 1 2 22.753290842968pf
C_C3 1 4 0.2835338271145pf
C_C4 2 REF 0.5803890428048pf
C_C5 2 3 0.1233935748423pf
C_C6 3 REF 0.3476564107098pf
C_C7 4 REF 0.3420504372899pf
L_L1 1 5 0.8933178642719nh
R_RL1 5 2 0.4206700610321
L_L2 3 6 1.3185964085546nh
R_RL2 6 4 6.082650907e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_24 1 2 3 4 REF
C_C1 1 REF 0.3753707444407pf
C_C2 1 2 11.346438983522pf
C_C3 1 3 0.0494635836959pf
C_C4 1 4 0.1638485308909pf
C_C5 2 REF 0.5203210413065pf
C_C6 2 3 0.0805620133122pf
C_C7 3 REF 0.3463440015514pf
C_C8 4 REF 0.3395991665333pf
L_L1 1 5 1.2743148970822nh
R_RL1 5 2 0.0564315952007
L_L2 3 6 1.3165723706546nh
R_RL2 6 4 -1.188837018e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_25 1 2 3 4 REF
C_C1 1 REF 0.4135386735296pf
C_C2 1 2 7.0472270658332pf
C_C3 1 3 0.0712740310913pf
C_C4 1 4 0.117175506347pf
C_C5 2 REF 0.5042214480346pf
C_C6 2 3 0.0624640369907pf
C_C7 2 4 0.0261247635555pf
C_C8 3 REF 0.3445647670612pf
C_C9 4 REF 0.3371852292507pf
L_L1 1 5 1.7599158719496nh
R_RL1 5 2 5.2506993633e-4
L_L2 3 6 1.3142081155527nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_26 1 2 3 4 REF
C_C1 1 REF 0.4282721127734pf
C_C2 1 2 5.7407823445671pf
C_C3 1 3 0.0812700443216pf
C_C4 1 4 0.1011644748414pf
C_C5 2 REF 0.5018038917525pf
C_C6 2 3 0.055149893402pf
C_C7 2 4 0.0449857432165pf
C_C8 3 REF 0.3433648934837pf
C_C9 4 REF 0.3356693128701pf
L_L1 1 5 1.8884446053149nh
R_RL1 5 2 9.5963519014e-5
L_L2 3 6 1.3131677097781nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param66_26

